US07569578B2
(±)-2-(7-Methyl-1H-indazol-5-yl)-1-(4-(piperidine-1-carbonyl)pyridin-2-yl)ethyl 4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate
To a solution of (±)-2-(2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carbonyloxy)ethyl)isonicotinic acid (39.2 mg, 0.057 mmol, 1.0 equiv.) in methylene chloride (0.7 mL) was added a drop of dimethylformamide (catalytic) followed by dropwise addition of oxalyl chloride (2 M in methylene chloride, 0.15 mL, 0.3 mmol, 5 equiv) at room temperature under nitrogen. After 2 h, excess piperidine was added dropwise and the mixture was further stirred for 1 h. The mixture was concentrated to a gel and was suspended in methylene chloride (2 mL). Trifluoroacetic acid (1 mL) was added and the resulting clear tan solution was stirred at room temperature for 6 h. The solvents were removed in vacuo and the residue was partitioned between 1 N sodium hydroxide and ethyl acetate. The layers were separated. The organic layer was washed with brine, dried and concentrated. Purification by flash column chromatography (6% methanol/methylene chloride) afforded the desired product (30.4 mg, 85.4%) as an off-white powder. MS (ESI) [M+H]+=622. 1H-NMR (400 MHz, CDCl3) δ 8.69 (d, J=4.4 Hz, 1H), 7.95 (br., 1H), 7.70 (br., 1H), 7.50-6.80 (m, 6H), 6.68 (br., 1H), 6.05-5.94 (m, 1H), 4.65-3.80 (m, 4H), 3.64 (br., 2H), 3.50-3.18 (m, 2H), 3.18-2.60 (m, 4H), 2.48 (s, 3H), 1.85-1.44 (m, 9H), 1.44-1.10 (m, 4H). HPLC tR=1.79 min.

reactant | (±)-2-(2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carbonyloxy)ethyl)isonicotinic acid | 0.057 mmol, 39.2 mg, 1.0 equiv. | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CC(OC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C=1C=C(C(=O)O)C=CN1 | C36H44N6O6Si
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.3 mmol, 2 M, 0.15 mL, 5 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | methylene chloride | 0.7 mL | C(Cl)Cl | CH2Cl2
product | (±)-2-(7-Methyl-1H-indazol-5-yl)-1-(4-(piperidine-1-carbonyl)pyridin-2-yl)ethyl 4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 30.4 mg, 85.4% | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)OC(CC=1C=C2C=NNC2=C(C1)C)C1=NC=CC(=C1)C(=O)N1CCCCC1 | C35H39N7O4
